US07495001B2
4.62 g (21.2 mmol) of carbonic acid 4-hydroxy-naphthalen-2-yl ester methyl ester [Journal of Agricultural and Food Chemistry (1994), 42(12), 2970-2] was dissolved in 150 ml of MeCl2, 4.95 ml=4.71 g (25.4 mmol) of 2-(trimethylsilyl)-ethoxymethylchloride was added and this mixture cooled down to 2° C. 11.1 ml=8.38 g (63.5 mmol) of N-ethyl-diisoproylamine was added drop by drop and then, reaction was warmed up to ambient temperature. After 48 hours, it was poured into crashed ice and extracted twice with MeCl2; the organic phases were washed with water, dried (MgSO4) and evaporated. The crude product was purified by flash chromatography (SiO2, gradient of n-heptane/MeCl2) to give 5.57 g of carbonic acid methyl ester 4-(2-trimethylsilanyl-ethoxymethoxy)-naphthalen-2-yl ester as colorless oil.

reactant | carbonic acid 4-hydroxy-naphthalen-2-yl ester methyl ester | 21.2 mmol, 4.62 g | COC(OC1=CC2=CC=CC=C2C(=C1)O)=O | C12H10O4
reactant | 2-(trimethylsilyl)-ethoxymethylchloride | 25.4 mmol, 4.71 g | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | N-ethyl-diisoproylamine | 63.5 mmol, 8.38 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | MeCl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | carbonic acid methyl ester 4-(2-trimethylsilanyl-ethoxymethoxy)-naphthalen-2-yl ester | 5.57 g | C[Si](CCOCOC1=CC(=CC2=CC=CC=C12)OC(OC)=O)(C)C | C18H24O5Si
